US06576771B1
6.4 g (20 mmol) of 4-hydroxy-5-methyl-6-(2-pyridyl)-3-(2,4,6-trimethylphenyl)-2-pyrone in 50 ml of ethyl acetate are introduced in the absence of moisture. 2.02 g (20 mmol) of triethylamine are added thereto at 20° C. and a solution of 2.1 g (20 mmol) of propargyloxychloromethane in 20 ml of ethyl acetate is added dropwise at 0° C. with cooling. The mixture is further stirred for 20 h at 20° C. and the reaction is followed by thin-layer chromatography. The solution is filtered off from the precipitated triethylamine hydrochloride with suction and washed with ethyl acetate. The combined mother liquors are washed twice, each time with 50 ml of half-saturated common salt solution, dried over magnesium sulfate and evaporated in vacuo. 8 g of crude product are obtained. 6.4 g (82% of theory) of 5-methyl-6-(2-pyridyl)-4-propargyloxymethoxy-3-(2,4,6-trimethylphenyl)-2-pyrone are obtained as an oil by flash chromatography on 500 g of silica gel 60 (35-70 μm) using toluene:acetone 20:1 as mobile phase.

reactant | 4-hydroxy-5-methyl-6-(2-pyridyl)-3-(2,4,6-trimethylphenyl)-2-pyrone | 20 mmol, 6.4 g | OC1=C(C(OC(=C1C)C1=NC=CC=C1)=O)C1=C(C=C(C=C1C)C)C | C20H19NO3
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | propargyloxychloromethane | 20 mmol, 2.1 g | C(C#C)OCCl | C4H5ClO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 5-methyl-6-(2-pyridyl)-4-propargyloxymethoxy-3-(2,4,6-trimethylphenyl)-2-pyrone | 6.4 g, 82% | CC=1C(=C(C(OC1C1=NC=CC=C1)=O)C1=C(C=C(C=C1C)C)C)OCOCC#C | C24H23NO4
